US08808703B2
Step 3: (R)-2,3-bis(dodecyloxy)propyl trifluoromethanesulfonate
To a solution of (S)-2,3-bis(dodecyloxy)propan-1-ol (1 eq) in DCM (0.12 M) was added pyridine (4 eq) and trifluoromethanesulfonic anhydride slowly (2 eq) at 0° C. The reaction mixture was stirred at 0° C. for 20 minutes. The mixture was diluted with DCM, washed with water, saturated copper sulfate solution, water and brine, dried over anhydrous Na2SO4, and concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-5% EtOAc/Hex to give the product (silica gel was deactivated using MeOH before flash chromatography).

reactant | (S)-2,3-bis(dodecyloxy)propan-1-ol | 1 eq | C(CCCCCCCCCCC)O[C@@H](CO)COCCCCCCCCCCCC | C27H56O3
reactant | pyridine | 4 eq | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | DCM | 0.12 M | C(Cl)Cl | CH2Cl2
product | (R)-2,3-bis(dodecyloxy)propyl trifluoromethanesulfonate | FC(S(=O)(=O)OC[C@@H](COCCCCCCCCCCCC)OCCCCCCCCCCCC)(F)F | C28H55F3O5S
